US07205306B2
Part A: 5-Fluoro-2-nitrophenol (5.00 g, 31.8 mmol) and methanol (120 mL) were combined and the mixture was treated with sodium methoxide (4.6 mL, 190.8 mmol, 25% w/w solution in MeOH). The reaction mixture was heated at 60° C. for 40 h. The mixture was transferred to a separatory funnel containing cold 1 N HCl and the aqueous layer was extracted with EtOAc (3×). The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated to afford 5-methoxy-2-nitrophenol (5.0 g, 93% yield) as a yellow solid: mp 93.0–94.0° C., 1H NMR (300 MHz, CDCl3): δ 11.05 (s, 1H), 8.03 (d, J=10.3 Hz, 1H), 6.55–6.51 (m, 2H), 3.89 (s, 3H).

reactant | 5-Fluoro-2-nitrophenol | 31.8 mmol, 5.00 g | FC=1C=CC(=C(C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | sodium methoxide | 190.8 mmol, 4.6 mL | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 120 mL | CO | CH4O
product | 5-methoxy-2-nitrophenol | 5.0 g, 93% yield | COC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO4
